US05962479
A mixture of 2-(2,4,6-trimethyl-phenoxy)-N4-(1-ethyl-propyl)-6-methyl-pyridine-3, 4-diamine (250 mg, 0.763 mmol), acetic anhydride (72 mg, 0.763 mmol) and triethylamine (77 mg, 0.763 mmol) in 5 ml of methylene chloride was stirred at room temperature for 3 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to dryness to give 310 mg of the crude material. The crude material was purified through silica gel column chromatography using 2% methanol in chloroform as eluent to give 250 mg (89% yield) of N-[4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-yl]-acetamide as tan solid, mp 154-156° C. 1H NMR(CDCl3) δ6.97(0.64H), 6.86(s,2H), 6.26(0.36H), 6.14(0.64H), 6.12(s,0.36H), 4.80(d,0.64H), 4.40(d,0.36H), 3.2-3.4(m,1H), 2.29(s,3H), 5 2.26(s,1.9H), 2.17(s,1.1H), 2.16(s,1.9H), 2.06(s,6H), 1.99(s,1.1H), 1.4-1.75(m,4H), 0.97(t,6H)ppm.

reactant | 2-(2,4,6-trimethyl-phenoxy)-N4-(1-ethyl-propyl)-6-methyl-pyridine-3, 4-diamine | 0.763 mmol, 250 mg | CC1=C(OC2=NC(=CC(=C2N)NC(CC)CC)C)C(=CC(=C1)C)C | C20H29N3O
reactant | acetic anhydride | 0.763 mmol, 72 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.763 mmol, 77 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-yl]-acetamide | 250 mg, 89% yield | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)NC(C)=O | C22H31N3O2
